US08710049B2
I: (S)-3-Methyl-1-(4-nitrophenyl)piperidin-3-amine
To a solution of (S)-benzyl 3-methyl-1-(4-nitrophenyl)piperidin-3-ylcarbamate (525 mg, 1.421 mmol) in CH2Cl2 (5 ml) cooled at 0° C. was added iodotrimethylsilane (0.290 mL, 2.132 mmol) dropwise. After addition, the orange colored solution was stirred at 0° C. for 15 min, then at rt for 1 hr. The reaction was quenched by addition of 4.3 mmol of HCl (1.1 mL of 4N HCl in dioxane) in MeOH (5 mL). The mixture was then concentrated and the dark reddish residue was partitioned between ether and water. The ether layer was extracted with 0.2 N aqueous HCl. The combined acidic aqueous solution was extracted with ether (1×), then basified at 0° C. with 1N aqueous NaOH to pH=10. The aqueous phase was extracted with CH2Cl2 (3×). The combined CH2Cl2 extracts were washed with saturated aqueous NaCl, dried over Na2SO4, filtered and concentrated to give the desired product, (S)-3-methyl-1-(4-nitrophenyl)piperidin-3-amine (277 mg, 1.177 mmol, 83% yield) as a dark reddish oil. Anal. Calcd. for C12H17N3O2 m/z 235.2, found: 236.0 (M+H)+; 1H NMR (400 MHz, chloroform-d) δ ppm 8.10 (d, J=9.34 Hz, 2H), 6.83 (d, J=9.34 Hz, 2H), 3.62-3.50 (m, 1H), 3.32 (d, J=12.64 Hz, 1H), 3.18 (s, 1H), 3.12 (d, J=13.19 Hz, 1H), 1.82 (d, J=4.95 Hz, 1H), 1.75 (s, 1H), 1.69-1.54 (m, 2H), 1.18 (s, 3H).

reactant | (S)-benzyl 3-methyl-1-(4-nitrophenyl)piperidin-3-ylcarbamate | 1.421 mmol, 525 mg | C[C@]1(CN(CCC1)C1=CC=C(C=C1)[N+](=O)[O-])NC(OCC1=CC=CC=C1)=O | C20H23N3O4
reactant | iodotrimethylsilane | 2.132 mmol, 0.290 mL | I[Si](C)(C)C | C3H9ISi
reactant | HCl | 4.3 mmol, 4N, 1.1 mL | Cl | ClH
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
solvent | MeOH | 5 mL | CO | CH4O
product | (S)-3-methyl-1-(4-nitrophenyl)piperidin-3-amine | 1.177 mmol, 277 mg, 83% yield | C[C@]1(CN(CCC1)C1=CC=C(C=C1)[N+](=O)[O-])N | C12H17N3O2
